US09326516B2
1-(1-(4-Bromophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C13)
The title compound was prepared with 2-amino-2-(4-bromophenyl)ethanol (Chen, L.; et al., US 20060004045) and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.58 g, 98%): 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.41-8.05 (m, 3H), 8.03-7.68 (m, 2H), 7.68-6.95 (m, 10H), 5.88-5.44 (m, 1H), 4.25-3.80 (m, 2H); ESIMS m/z 578 ([M+H]+).

reactant | 2-amino-2-(4-bromophenyl)ethanol | NC(CO)C1=CC=C(C=C1)Br | C8H10BrNO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(1-(4-Bromophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | BrC1=CC=C(C=C1)C(CO)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H19BrF3N5O2S
